US03978127
A. 2-Methyl-3-(α,α,β,β-tetrafluorophenethyl)-benzyl bromide
A mixture of 4.0 g. (0.0142 mole) of 2,3-dimethyl-α,α,α',α'-tetrafluorobibenzyl, 2.52 g. (0.0142 mole) of N-bromosuccinimide, about 50 mg. of benzoyl peroxide, and 100 ml. of carbon tetrachloride is stirred at reflux for 21/2 hours. After cooling, the precipitate of succinimide is removed by filtration and the filtrate is evaporated to dryness under reduced pressure. The residual solid is recrystallized from petroleum ether to yield the white crystalline product, m.p. 67°-71°C. Repeated recrystallization from petroleum ether affords the analytical sample, m.p. 69°-71°C.

reactant | 2,3-dimethyl-α,α,α',α'-tetrafluorobibenzyl | 0.0142 mole | CC1=C(C=CC=C1C)C(C(C1=CC=CC=C1)(F)F)(F)F | C16H14F4
reactant | N-bromosuccinimide | 0.0142 mole | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Methyl-3-(α,α,β,β-tetrafluorophenethyl)-benzyl bromide | CC1=C(CBr)C=CC=C1C(C(C1=CC=CC=C1)(F)F)(F)F | C16H13BrF4
